US06831186B2
To a solution of (3S)-4-(4-fluorophenoxy)-3-hydroxy-1-butyne (est. 490 mmol) in methylene chloride (1 L) was added 3,5-dinitrobenzoyl chloride (125 g, 539 mmol) at between −5° C. and 0° C., followed by slow addition of triethylamine (10.8 mL, 77 mmol) and a catalytic amount of dimethylaminopyridine (DMAP) (20 mg). After the mixture was stirred at ambient temperature for 40 minutes, the reaction mixture was cautiously partitioned between methylene chloride and aqueous NaHCO3. The aqueous layer was extracted with dichloromethane, and the combined organic layers were washed with water and brine, and dried over Na2SO4. The solution was filtered through a pad of silica gel with methylene chloride which gave crude product as a tan solid. Rapid recrystallization from 99:1 mixture of methanol:acetic acid (5 L) gave 101 g of the enantiomerically enriched product, (3S)-4-(4-fluorophenoxy)-3-(3′,5′-dinitrobenzoyl)oxy-1-butyne, a compound of formula (BBa) as fluffy white needles. This material was determined to have greater than 98% ee by analytical HPLC using a Diacel Chiralpak AD® (4.6×250 mm, 60% 2-propanol/hexane, 1 mL/min), which separates the (R) (11.5 min) and the (S) (19.3 min) enantiomers; 1H NMR (CDCl3) δ 2.65 (s, 1H), 4.40 (m, 2H), 6.05 (m, 1H), 6.90 (m, 2H), 7.0 (t, 2H), 9.15 (s, 2H), 9.25 (s, 1H) ppm.

reactant | (3S)-4-(4-fluorophenoxy)-3-hydroxy-1-butyne | 490 mmol | FC1=CC=C(OC[C@H](C#C)O)C=C1 | C10H9FO2
reactant | 3,5-dinitrobenzoyl chloride | 539 mmol, 125 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | triethylamine | 77 mmol, 10.8 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | (3S)-4-(4-fluorophenoxy)-3-(3′,5′-dinitrobenzoyl)oxy-1-butyne | FC1=CC=C(OC[C@H](C#C)OC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C=C1 | C17H11FN2O7
